US06800627B1
Methyl 6-chloro-indoline-2-carboxylate
To a stirred suspension-solution of ethyl 6-chloroindole-2-carboxylate (20.0 g, 89.4 mmol) in methanol (350 mL) under Ar was added magnesium turnings (21.7 g, 0.89 mol). After 10 min, the internal temperature had risen to 24° C. and effervescence was apparent. The mixture was cooled to 10-1S ° C. and was maintained for 1.5 h. After this time, the reaction mixture was allowed to warm to ambient temperature, and was stirred for 1 h. The mixture was poured onto saturated aqueous ammonium chloride solution (1 L), and ethyl acetate (300 mL) was added. After 1.5 h stirring, the layers were separated, and the aqueous layer was exacted with ethyl acetate (2×300 mL). The combined organic extracts were washed with brine (200 mL), dried (magnesium sulfate) and concentrated in vacuo to give a brown oil. Purification by flash column chromatography [SiO2; ethyl acetate-heptane (1:3)] afforded the title compound (12.0 g, 63%) as an orange oil which crystallised on standing: IR νmax (film)t/cm−1 3375, 2953, 2851,1737, 1610, 1486, 1438, 1321, 1287, 1204, 1161, 1069, 1011, 948, 906, 846, 796, 794, 594 and 548; NMR δH (400 MHz; CDCl3) 3.27 (1H, dd, J 16.0, 5.0 Hz), 3.34 (1H, ddd, J 16.0, 10.5, 1.0 Hz), 3.76 (3H, s), 4.40 (1H, dd, J 10.5, 5.0 Hz), 4.47 (H, br s), 6.68 (1H, br d, J 2 Hz), 6.69 (1H, dd, J 7.5, 2.0 Hz) and 6.96 (1H, d, J 7.5 Hz); hplc [Chiralcel OD; hexane-isopropanol (90:10); 1 mL/min; 260 nm] 50% (10.04 min) and 50% (11.61 min).

reactant | ethyl 6-chloroindole-2-carboxylate | 89.4 mmol, 20.0 g | ClC1=CC=C2C=C(NC2=C1)C(=O)OCC | C11H10ClNO2
reactant | magnesium | 0.89 mol, 21.7 g | [Mg] | Mg
reactant | ammonium chloride | 1 L | [Cl-].[NH4+]
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 350 mL | CO | CH4O
product | Methyl 6-chloro-indoline-2-carboxylate | 12.0 g, 63% | ClC1=CC=C2CC(NC2=C1)C(=O)OC | C10H10ClNO2
